US07951815B2
Piperidone hydrochloride (3.0 g, 19.5 mmol) dissolved in DMF (25 ml), N,N-diiso-propylcarbodiimide (8.2 g, 65.1 mmol) and 1-hydroxybenzotriazole (8.8 g, 65.1 mmol) were added at 0° C. to a solution of 2,4-dimethoxybenzoic acid (11.8 g, 65.1 mmol) in DMF (25 ml) and the mixture was stirred at 0° C. for 3 h and subsequently at RT for 2 d. Aqueous 1M Na2CO3 solution (20 ml) was added to the reaction mixture and it was extracted with EA (3×20 ml). After drying of the combined organic phases, the solvent was removed and the residue was purified by means of column chromatography. The product 1-(2,4-dimethoxybenzoyl)piperidin-4-one was obtained in a yield of 2.7 g (39%).

reactant | Piperidone hydrochloride | 19.5 mmol, 3.0 g | Cl.N1C(CCCC1)=O
reactant | 1-hydroxybenzotriazole | 65.1 mmol, 8.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2,4-dimethoxybenzoic acid | 65.1 mmol, 11.8 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | Na2CO3 | 1M, 20 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-dimethoxybenzoyl)piperidin-4-one | COC1=C(C(=O)N2CCC(CC2)=O)C=CC(=C1)OC | C14H17NO4
